US08859566B2
A mixture of 8-(1-benzyl-1H-pyrazol-4-yl)-2-chloro-1-propyl-1,7-dihydro-purin-6-one (0.9 g, 2.44 mmol), K2CO3 (1.01 g, 7.32 mmol) in DMF (10 ml) were cooled to 0° C. and added SEM-Cl (1.3 ml, 7.32 mmol). The reaction mixture was stirred at 25° C. for 20 hours. To this reaction mixture water (100 ml) was added and extracted with ethyl acetate (3×30 ml). The combined organic layer was washed with brine (30 ml) and dried over Na2SO4. The organic layer was evaporated to dryness and the crude product was purified by column chromatography using silica gel (100-200 mesh) and 10-15% ethyl acetate in hexane as an eluent to obtain 8-(1-Benzyl-1H-pyrazol-4-yl)-2-chloro-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one (0.3 g, 25%) as a off white solid.

reactant | 8-(1-benzyl-1H-pyrazol-4-yl)-2-chloro-1-propyl-1,7-dihydro-purin-6-one | 2.44 mmol, 0.9 g | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NC=2N=C(N(C(C2N1)=O)CCC)Cl | C18H17ClN6O
reactant | K2CO3 | 7.32 mmol, 1.01 g | C(=O)([O-])[O-].[K+].[K+]
reactant | SEM-Cl | 7.32 mmol, 1.3 ml | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | water | 100 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 8-(1-Benzyl-1H-pyrazol-4-yl)-2-chloro-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 0.3 g, 25% | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NC=2N=C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)Cl | C24H31ClN6O2Si
